US04616014
Sodium borohydride (0.71 g) and 5-methyl-6-phenyl-1,2,4-triazine-3(2H)-thione which have methanol of crystallization (4.03 g) were reacted in tetrahydrofuran according to a similar manner to that of EXAMPLE 2:(2). The reaction mixture was treated with a mixture of 1N-hydrochloric acid and water, and then extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, brine, an aqueous solution of sodium carbonate and brine, dried over magnesium sulfate and concentrated to dryness. The resultant solid was washed with diisopropyl ether and recrystallized from ethanol to give 5-methyl-6-phenyl-4,5-dihydro-1,2,4-triazine-3(2H)-thione (1.48 g), mp 213°~214.5° C.

reactant | Sodium borohydride | 0.71 g | [BH4-].[Na+]
reactant | 5-methyl-6-phenyl-1,2,4-triazine-3(2H)-thione | CC1=NC(NN=C1C1=CC=CC=C1)=S | C10H9N3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-methyl-6-phenyl-4,5-dihydro-1,2,4-triazine-3(2H)-thione | 1.48 g | CC1NC(NN=C1C1=CC=CC=C1)=S | C10H11N3S
